US04018802
Preparation of 8-methylsulfonyl-12(R)-hydroxyheptadecanoic acid
The synthesis of this compound is carried out by the procedure described in Example 15 except that the 8-methylsulfonyl-12(S)-hydroxy-10-heptadecynoic acid is replaced by an equivalent quantity of 8-methylsulfonyl-12(R)-hydroxy-10-heptadecynoic acid.

reactant | 8-methylsulfonyl-12(S)-hydroxy-10-heptadecynoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CC#C[C@H](CCCCC)O | C18H32O5S
reactant | 8-methylsulfonyl-12(R)-hydroxy-10-heptadecynoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CC#C[C@@H](CCCCC)O | C18H32O5S
product | 8-methylsulfonyl-12(R)-hydroxyheptadecanoic acid | CS(=O)(=O)C(CCCCCCC(=O)O)CCC[C@@H](CCCCC)O | C18H36O5S
